US04618683
4-(3-Bromo-2-methoxy-5-methylphenyl)-butyric acid
A solution of 4-(2-methoxy-5-methylphenyl)-butyric acid (74 g, 0.36 mole), NaOAc (29.8 g, anhydrous), and glacial acetic acid (710 mL) was stirred under N2 at room temperature. as a solution of bromine (22 mL, 0.43 mole) and glacial acetic acid (185 mL) was added dropwise. The reaction mixture was stirred at room temperature for 20 hours. 10% aqueous sodium bisulfite (400 mL) was added and the solution was extracted with CH2Cl2. The combined extracts were washed with water, 10% aqueous sodium thiosulfate, water, saturated aqueous. NaCl, dried (MgSO4), filtered, and evaporated to yield 108 g brown solid which was recrystallized from hexane to yield 76 g white solid, (74%); m+ 286.

reactant | 4-(2-methoxy-5-methylphenyl)-butyric acid | 0.36 mole, 74 g | COC1=C(C=C(C=C1)C)CCCC(=O)O | C12H16O3
reactant | NaOAc | 29.8 g | CC(=O)[O-].[Na+]
reactant | bromine | 0.43 mole, 22 mL | BrBr | Br2
reactant | sodium bisulfite | 400 mL | S([O-])(O)=O.[Na+]
solvent | acetic acid | 185 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 710 mL | C(C)(=O)O | C2H4O2
product | 4-(3-Bromo-2-methoxy-5-methylphenyl)-butyric acid | 108 g | BrC=1C(=C(C=C(C1)C)CCCC(=O)O)OC | C12H15BrO3
